US05521177
a) 4'-[(2-n-Propyl-4-methyl-6-phthalimido-1H-benzimidazol-1-yl)-methyl]-2-cyano-biphenyl
Prepared analogously to Example la from 2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazole and 4'-bromomethyl-2-cyano-biphenyl.

reactant | 2-n-propyl-4-methyl-6-phthalimido-1H-benzimidazole | C(CC)C1=NC2=C(N1)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C19H17N3O2
reactant | 4'-bromomethyl-2-cyano-biphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
product | 4'-[(2-n-Propyl-4-methyl-6-phthalimido-1H-benzimidazol-1-yl)-methyl]-2-cyano-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=C(C=C2C)N2C(C=1C(C2=O)=CC=CC1)=O | C33H26N4O2
